US05905084
5-hydroxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A solution of 1.00 gm (4.1 mMol) 5-methoxy-3-(1-methyl-piperidin-4-yl)pyrrolo[3,2-b]pyridine in 20 mL hydrogen bromide (30% in acetic acid) was heated at reflux for 48 hours. Additional 5 mL aliquots of hydrogen bromide in acetic acid were added at about 8 and 24 hours. The reaction mixture was concentrated under reduced pressure and the residue treated with 1 mL saturated aqueous sodium bicarbonate. The resulting mixture was taken up in methanol and passed over a VARIAN BOND ELUT SCX™ (Varian, Harbor City, Calif., U.S.A.) ion exchange column which had been preactivated with 10% acetic acid in methanol. The column was washed with three volumes of methanol which were discarded, and then with methanol containing ammonia. Fractions containing product were combined and concentrated under reduced pressure to provide 0.892 gm (94%) of the title compound. An analytical sample was further subjected to flash silica gel chromatography, eluting with dichloromethane containing from 10-40% methanol. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from methanol.

reactant | 5-methoxy-3-(1-methyl-piperidin-4-yl)pyrrolo[3,2-b]pyridine | 4.1 mMol, 1.00 gm | COC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C14H19N3O
solvent | hydrogen bromide | 20 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-hydroxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.892 gm, 94% | OC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H17N3O
